US08114878B2
2.1.1 (2-chloro-6,7-dihydro-thieno[3,2-d]pyrimidin-4-yl)-(3-fluoro-phenyl)-amine
4.00 g 2,4-dichloro-6,7-dihydro-thieno[3,2-d]pyrimidine are placed in 15 ml dimethylformamide, then first 4.50 ml diisopropylethylamine, then 2.50 ml 3-fluoro-aniline are added. The reaction mixture is stirred for 7 hours at 120° C., and after cooling evaporated down. The residue is extracted with dichloromethane and water, the organic phase is washed with saturated sodium chloride solution, dried and evaporated to dryness. The residue is purified by chromatography (NP_MPLC, Biotage cartridge (4*15 cm)). 2.60 g of the product are obtained as a powder.

reactant | 2,4-dichloro-6,7-dihydro-thieno[3,2-d]pyrimidine | 4.00 g | ClC=1N=C(C2=C(N1)CCS2)Cl | C6H4Cl2N2S
reactant | diisopropylethylamine | 4.50 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-fluoro-aniline | 2.50 ml | FC=1C=C(N)C=CC1 | C6H6FN
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | (2-chloro-6,7-dihydro-thieno[3,2-d]pyrimidin-4-yl)-(3-fluoro-phenyl)-amine | 2.60 g | ClC=1N=C(C2=C(N1)CCS2)NC2=CC(=CC=C2)F | C12H9ClFN3S
